US06586630B1
(3) Synthesis of N-Me-Val-N-Me-Tyr-NH2
Fmoc-N-Me-Val-N-Me-Tyr(Bzl)—NH2 (802 mg, 1.29 mmol) was dissolved in a mixed solution of MeOH (6 ml) and ethyl acetate (6 ml), mixed with 20% palladium hydroxide-carbon (150 mg), followed by stirring in a hydrogen atmosphere at room temperature for 2 days. The mixture was filtered and the filtrate was concentrated under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: chloroform:methanol=10:1) to give the titled compound (216 mg, 55%).

reactant | Fmoc-N-Me-Val-N-Me-Tyr(Bzl)—NH2 | 1.29 mmol, 802 mg | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N)C)(C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H41N3O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 6 ml | CO | CH4O
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide carbon | 150 mg | [OH-].[Pd+2].[OH-].[C]
product | N-Me-Val-N-Me-Tyr-NH2 | 216 mg, 55% | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC=C(C=C1)O)C(=O)N)C)C | C16H25N3O3
